US08048887B2
Methyl 5-iodo-2-methoxy-4-methylbenzoate
Methyl 2-methoxy-4-methylbenzoate (1.5 g, 8.32 mmol, 1 eq) was dissolved in methanol. To this solution was added dropwise iodine monochloride (6.75 g, 41.6 mmol, 5 eq) in methanol at room temperature. The reaction mixture was heated at 50° C. for 15 h. Finally, methanol was concentrated, diluted with water and extracted with ethyl acetate. The organic layer was washed with 0.1 N HCl (50 ml), water (100 ml) and brine solution (100 ml). The product was purified by column chromatography using 60-120 silica gel and using 5% ethyl acetate/hexane as eluent. Yield: 1.7 g (80%). 1H NMR (400 MHz, CDCl3): δ 2.44 (s, 3H), 3.86 (s, 3H), 3.88 (s, 3H), 6.86 (s, 1H), 8.20 (s, 1H). LCMS: (ES+) m/z=307.0 (M+H).

reactant | Methyl 2-methoxy-4-methylbenzoate | 8.32 mmol, 1.5 g, 1 eq | COC1=C(C(=O)OC)C=CC(=C1)C | C10H12O3
reactant | iodine monochloride | 41.6 mmol, 6.75 g, 5 eq | ICl | ClI
solvent | methanol | CO | CH4O
product | Methyl 5-iodo-2-methoxy-4-methylbenzoate | IC=1C(=CC(=C(C(=O)OC)C1)OC)C | C10H11IO3
